US04694004
To a solution of tert-butyl isocyanate (0.991 g) in methylene chloride (8 ml) was added dropwise to a mixture of N-amino-1,2,3,6-tetrahydropyridine hydrochloride (1.346 g) and triethylamine (1.012 g) in methylene chloride (40 ml) under ice bath cooling. The mixture was stirred for an hour at about 5° C. The reaction mixture was evaporated to dryness, and then the residue was dissolved in ethyl acetate (50 ml). The solution was washed with water (40 ml), dried over magnesium sulfate and evaporated to dryness. The crude residue was washed with ether and dried to give N-[(tert-butylcarbamoyl)amino]-1,2,3,6-tetrahydropyridine (0.50 g).

reactant | tert-butyl isocyanate | 0.991 g | C(C)(C)(C)N=C=O | C5H9NO
reactant | N-amino-1,2,3,6-tetrahydropyridine hydrochloride | 1.346 g | Cl.NN1CCC=CC1
reactant | triethylamine | 1.012 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-[(tert-butylcarbamoyl)amino]-1,2,3,6-tetrahydropyridine | 0.50 g | C(C)(C)(C)NC(=O)NN1CCC=CC1 | C10H19N3O
